US05104888
6-Acetoxy-2-(4-aminophenoxymethyl)-5,7,8-trimethyl-2-octylchroman (Step A3, Hydrogenation)
Using Paar's hydrogenation apparatus, a mixture of 4 g of 6-acetoxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman (prepared as described in Preparation 16), 0.8 g of 10% w/w palladium-on-carbon, 30 ml of methanol and 10 ml of benzene was stirred for 5 hours under 3-5 atmospheres (about 3-5 bars) pressure or hydrogen. The catalyst was filtered off, and the filtrate was condensed by evaporation under reduced pressure. The crystals thus obtained were washed with hexane to give the title compound, melting at 112°-114° C.

reactant | 6-acetoxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman | 4 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)[N+](=O)[O-])C | C29H39NO6
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 6-Acetoxy-2-(4-aminophenoxymethyl)-5,7,8-trimethyl-2-octylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)N)C | C29H41NO4
